US05519133
Preparation of 5-Methoxy-2-nitrobenzoyl chloride
A mixture of 5-methoxy-2-nitrobenzoic acid (15.8 g, 0.08 mol), oxalyl chloride (25 g, 0.197 mol) and N,N-dimethylformamide (2 drops) is stirred at reflux for 4 hours, cooled, stirred at room temperature under nitrogen for several days and concentrated in vacuo to give the title product as a yellow oil which is identified by 1HNMR spectral analysis.

reactant | 5-methoxy-2-nitrobenzoic acid | 0.08 mol, 15.8 g | COC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO5
reactant | oxalyl chloride | 0.197 mol, 25 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 5-Methoxy-2-nitrobenzoyl chloride | COC=1C=CC(=C(C(=O)Cl)C1)[N+](=O)[O-] | C8H6ClNO4
